US08431603B2
(14a) tert-Butyl[3-(4-cyano-2,6-dimethoxyphenyl)-6-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl]carbamate
To a mixture of tert-butyl (3-bromo-6-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl)carbamate (461 mg, 1.33 mmol), DME (49 mL) and water (16 mL) were added (4-cyano-2,6-dimethoxyphenyl)boronic acid (412 mg, 2.00 mmol), potassium carbonate (366 mg, 2.66 mmol), triphenylphosphine (174 mg, 0.659 mmol) and palladium acetate (29.8 mg, 0.132 mmol) in that order, and the mixture was stirred at 90° C. (internal temperature) for 2 hours. Water was added to the mixture, and then ethyl acetate was added. After thoroughly shaking the mixture, the organic layer was separated and the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The mixture was filtered, and then the solvent in the filtrate was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (mixture of n-heptane and ethyl acetate: n-heptane/ethyl acetate=2/1 then 1/1) to obtain the title compound (296 mg, 0.688 mmol).

reactant | tert-butyl (3-bromo-6-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl)carbamate | 1.33 mmol, 461 mg | BrC=1N2C(SC1)=C(C(=N2)OC)NC(OC(C)(C)C)=O | C11H14BrN3O3S
reactant | (4-cyano-2,6-dimethoxyphenyl)boronic acid | 2.00 mmol, 412 mg | C(#N)C1=CC(=C(C(=C1)OC)B(O)O)OC | C9H10BNO4
reactant | potassium carbonate | 2.66 mmol, 366 mg | C([O-])([O-])=O.[K+].[K+]
reactant | triphenylphosphine | 0.659 mmol, 174 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | palladium acetate | 0.132 mmol, 29.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | n-heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | water | 16 mL | O | H2O
solvent | DME | 49 mL | COCCOC | C4H10O2
product | tert-Butyl[3-(4-cyano-2,6-dimethoxyphenyl)-6-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl]carbamate | 0.688 mmol, 296 mg | C(C)(C)(C)OC(NC=1C(=NN2C1SC=C2C2=C(C=C(C=C2OC)C#N)OC)OC)=O | C20H22N4O5S
